US06008243
According to the procedure described in Example 1(a), a suspension of 3(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-N-(2,2-dimethyl-1(S)-hydroxymethylpropyl)succinamic acid benzyl ester in EtOH was hydrogenated to provide 3(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-N-(2,2-dimethyl-1(S)-hydroxymethylpropyl)succinamic acid as a solid, mp 145-50° C. FABMS: 436.1 (C25H30N3O4 ; M+H+).

reactant | 3(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-N-(2,2-dimethyl-1(S)-hydroxymethylpropyl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(CC(C(=O)N[C@@H](C(C)(C)C)CO)N1CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C32H37N3O4
solvent | EtOH | CCO | C2H6O
product | 3(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-N-(2,2-dimethyl-1(S)-hydroxymethylpropyl)succinamic acid | C1(=CC=C(C=C1)N1CN(C=C1)C(CC(=O)O)C(=O)N[C@@H](C(C)(C)C)CO)C1=CC=CC=C1 | C25H31N3O4
